US04123450
An aqueous solution of ethylamine (2.58g of 70% solution, 0.04 mole) and an aqueous sodium hydroxide solution (1.44g in 8 ml solution, 0.036 mole) were added dropwise simultaneously over a period of 15 minutes to a cool solution of phenyl chloroformate (6.0g, 0.038 mole) in methylene chloride (35 ml). The reaction mixture was stirred for one hour, then separated. The organic layer was dried over anhydrous magnesium sulfate, then filtered and stripped of solvent on a Rotovap. White crystals of phenyl N-ethylcarbamate weighing 6.27g were obtained having a melting point of 49°-50° C.

reactant | ethylamine | 0.04 mole, 2.58g | C(C)N | C2H7N
reactant | sodium hydroxide | 0.036 mole, 8 ml, 1.44g | [OH-].[Na+]
reactant | phenyl chloroformate | 0.038 mole, 6.0g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | phenyl N-ethylcarbamate | 6.27g | C(C)NC(OC1=CC=CC=C1)=O | C9H11NO2
